US08039490B2
N-(trans-4-{2-[4-(3-Chloro-thiophene-2-carbonyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-acetamide
From (3-chloro-thiophen-2-yl)-piperidin-4-yl-methanone hydrochloride (78 mg) and N-[trans-4-(2-oxo-ethyl)-cyclohexyl]-acetamide (54 mg, intermediate AG) by procedure A.1. Yield: 52 mg (45%). White solid. MS (m/z): 397.1 ([M+H]+).

reactant | (3-chloro-thiophen-2-yl)-piperidin-4-yl-methanone hydrochloride | 78 mg | Cl.ClC1=C(SC=C1)C(=O)C1CCNCC1
reactant | N-[trans-4-(2-oxo-ethyl)-cyclohexyl]-acetamide | 54 mg | O=CC[C@@H]1CC[C@H](CC1)NC(C)=O | C10H17NO2
product | N-(trans-4-{2-[4-(3-Chloro-thiophene-2-carbonyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-acetamide | ClC1=C(SC=C1)C(=O)C1CCN(CC1)CC[C@@H]1CC[C@H](CC1)NC(C)=O | C20H29ClN2O2S
